US07342127B2
Hexamethylentetramine (197 mg, 1.4 mmol) was added to a solution of compound 4-(2,6-dibromo-3-methyl-4-nitrophenoxy)-2-isopropylphenol of Part 8C (250 mg, 0.56 mmol) and TFA (5 mL). The resulting reaction mixture was stirred for 16 hours at 95° C. The reaction mixture was cooled to room temperature and 1N HCl (10 mL) was added. After another hour of stirring, the reaction mixture was extracted with EtOAc (3×30 mL), the combined organic phases washed by 1N HCl (15 mL), H2O (20 mL) and brine (20 mL). After drying over Na2SO4, concentration and filtration through a pad of silica, 210 mg (79%) of 5-(2,6-dibromo-3-methyl-4-nitrophenoxy)-2-hydroxy-3-isopropylbenzaldehyde was obtained as a light yellow solid.

reactant | 4-(2,6-dibromo-3-methyl-4-nitrophenoxy)-2-isopropylphenol | BrC1=C(OC2=CC(=C(C=C2)O)C(C)C)C(=CC(=C1C)[N+](=O)[O-])Br | C16H15Br2NO4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | HCl | 1N, 10 mL | Cl | ClH
product | 5-(2,6-dibromo-3-methyl-4-nitrophenoxy)-2-hydroxy-3-isopropylbenzaldehyde | 210 mg, 79% | BrC1=C(OC=2C=C(C(=C(C=O)C2)O)C(C)C)C(=CC(=C1C)[N+](=O)[O-])Br | C17H15Br2NO5
